US06884801B1
2-(2-Nitrophenyl)furan (0.51 g) was dissolved in 10 mL of EtOH. To this solution was added 0.07 g of 10% Pd/C and 1 mL of EtOH. This mixture was stirred and treated dropwise with 1.4 mL of 35% hydrazine. The suspension was filtered, and the filtrate was evaporated. The resulting residue was taken up in 50 mL of toluene and re-evaporated to give 2-(2-aminophenyl)furan. [This compound was reported in Smith et al.; J. Am. Chem Soc. 1953, 75, 6335.]

reactant | 2-(2-Nitrophenyl)furan | 0.51 g | [N+](=O)([O-])C1=C(C=CC=C1)C=1OC=CC1 | C10H7NO3
reactant | hydrazine | 1.4 mL | NN | H4N2
solvent | EtOH | 10 mL | CCO | C2H6O
catalyst | Pd/C | 0.07 g | [Pd] | Pd
solvent | EtOH | 1 mL | CCO | C2H6O
product | 2-(2-aminophenyl)furan | NC1=C(C=CC=C1)C=1OC=CC1 | C10H9NO
